US07037929B1
Preparation of N-(5-Bromo-thiazol-2-yl)-3-hydroxypropionamide
A mixture of LiBH4 (44 mg, 2.02 mmol), ethyl 3-[(5-bromo-1,3-thiazol-2-yl)amino]-3-oxopropanoate (340 mg, 1.16 mmol), ethanol (0.082 ml, 2.02 mmol), and Et2O (50 ml) was refluxed for 20 min. The reaction was quenched with 1 N hydrochloric acid with ice-cooling. The mixture was then diluted with water and extracted with dichloromethane. The extract was dried and the solvent was evaporated under reduced pressure. Purification by silica gel chromatography (dichloromethane/methanol=98:2 and then 95:5) yielded the title compound as a white solid (0.17 g; 52%).

reactant | LiBH4 | 2.02 mmol, 44 mg | [Li+].[BH4-]
reactant | ethyl 3-[(5-bromo-1,3-thiazol-2-yl)amino]-3-oxopropanoate | 1.16 mmol, 340 mg | BrC1=CN=C(S1)NC(CC(=O)OCC)=O | C8H9BrN2O3S
reactant | ethanol | 2.02 mmol, 0.082 ml | C(C)O | C2H6O
solvent | Et2O | 50 ml | CCOCC | C4H10O
product | N-(5-Bromo-thiazol-2-yl)-3-hydroxypropionamide | 0.17 g, 52% | BrC1=CN=C(S1)NC(CCO)=O | C6H7BrN2O2S
